US06881733B1
1-benzyl-3,3-dimethyl-4-hydroxy-4-(4,6-difluorobenzofur-7-yl)piperidine
Beginning with 1.17 gm (5.01 mMol) 4,6-difluoro-7-bromobenzofuran and 1.14 gm (5.26 mMol) 1-benzyl-3,3-dimethyl-4-oxopiperidine, 0.97 gm (52%) of the desired compound were prepared essentially as described in EXAMPLE 19.

reactant | 4,6-difluoro-7-bromobenzofuran | 5.01 mMol, 1.17 gm | FC1=CC(=C(C2=C1C=CO2)Br)F | C8H3BrF2O
reactant | 1-benzyl-3,3-dimethyl-4-oxopiperidine | 5.26 mMol, 1.14 gm | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
product | 1-benzyl-3,3-dimethyl-4-hydroxy-4-(4,6-difluorobenzofur-7-yl)piperidine | 0.97 gm, 52% | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C=C(C=2C=COC21)F)F)O)(C)C | C22H23F2NO2
